US08426420B2
ii) 4-{(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-[(2,2-difluoro-cyclopropanecarbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 19 mg 2,2-Difluorocyclopropane carboxylic acid in 3 ml DMF were added 0.03 ml DIPEA, 58 mg HATU and 100 mg 4-[(S)-4-Amino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester. After stirring for 12 h it was diluted with dichlormethane and extracted with aqueous LiCl (4% w/w), aqueous NaHCO3 and 0.1 M HCl. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound. Yield: 55 mg MS (ES+): m/e=756.

reactant | 2,2-Difluorocyclopropane carboxylic acid | 19 mg | FC1(C(C1)C(=O)O)F | C4H4F2O2
reactant | DIPEA | 0.03 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 58 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-[(S)-4-Amino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCN)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C32H44N8O7
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | dichlormethane | ClCCl | CH2Cl2
product | 4-{(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-[(2,2-difluoro-cyclopropanecarbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCNC(=O)C1C(C1)(F)F)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C36H46F2N8O8
